US05136020
Glycyl-D-alanine benzyl ester hydrochloride
To a cold (0° C.) solution of 100 ml. methylene chloride containing 10 g. (57 mmol) of N-t-butyloxycarbonylglycine, 20 g. (57 mmol) of D-alanine benzyl ester p-toluene sulfonic acid salt and 5.77 g. (57 mmol) of triethylamine was added 12.3 g. (60 mmol) of dicyclohexylcarbodiimide and the resulting reaction mixture allowed to warm to room temperature. After 18 hours the mixture was filtered and the filtrate concentrated in vacuo. The residue was dissolved in 200 ml. of ethyl acetate and the organic layer washed with 2.5% hydrochloric acid, water, a saturated sodium bicarbonate solution and a brine solution. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. To the resulting oil 200 ml. of dioxane saturated with hydrogen chloride was added. After 30 minutes 400 ml. of diethyl ether was added and the product filtered under nitrogen, 10.9 g. (70% yield).

reactant | N-t-butyloxycarbonylglycine | 57 mmol | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | D-alanine benzyl ester p-toluene sulfonic acid salt | 57 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@H](N)C)=O
reactant | triethylamine | 57 mmol | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 60 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | 10 g | C(Cl)Cl | CH2Cl2
product | Glycyl-D-alanine benzyl ester hydrochloride | 70% yield | Cl.C(C1=CC=CC=C1)OC([C@H](NC(CN)=O)C)=O | InChI=1S/C12H16N2O3.ClH/c1-9(14-11(15)7-13)12(16)17-8-10-5-3-2-4-6-10;/h2-6,9H,7-8,13H2,1H3,(H,14,15);1H/t9-;/m1./s1
